* F:\GitHub\Electronics_Exercises\AcLine_FullBridge_HalfControlled_1Phase\Simulate\v2.0.asc
* Generated by LTspice 24.1.10 for Windows.
R§LOAD VOUT_POS VOUT_NEG 500
R5 VCC A2 470
V3 TRIG 0 PULSE(0 3.3 4m 1n 1n 200u {1/(2*F)})
V2 VCC 0 5
D5 N009 K1 LED
R7 VCC N009 470
C3 VCC 0 22µ
C4 VCC 0 100n
V1 L 0 SINE(0 325 {F})
Q2 K1 N010 0 0 BC337-40
R8 TRIG N010 1K
R1 N004 N003 360
R2 0 N007 470 pwr=2
C1 N007 VOUT_POS 47n V=400
X§U3 A1 K1 N008 N004 MOC3021 ;§pnba led+)led-)mt2)mt1
D3 N007 N008 1N4007
R3 N002 N001 360
R4 L N005 470 pwr=2
C2 N005 VOUT_POS 47n V=400
X§U4 A2 K1 N006 N002 MOC3021 ;§pnba led+)led-)mt2)mt1
D4 N005 N006 1N4007
R6 VCC A1 470
D1 VOUT_NEG L D
D2 VOUT_NEG 0 D
X§U2 L N001 VOUT_POS S8020L ;§pnba A)G)K
X§U1 0 N003 VOUT_POS S8020L ;§pnba A)G)K
.model D D
.lib C:\Users\Home\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Home\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran {2/F} startup
.model LED D(IS=2e-19 N=2 RS=5 BV=30 IBV=1e-3)
.param F=50Hz
* MOC3021
* MOC3021
* 400V
* 400V
* 220VAC
* GitHub.com/AliRezaJoodi
.model 1N4007 D(Is=90p Rs=40m Cjo=30p N=1.4 TT=5u Iave=1 Vpk=1000 type=silicon)
* 2W
* 2W
.lib MyLib/Opto/MOC3021.lib
.lib MyLib/Thyristor_SCR/_SCR_Littelfuse.lib
.backanno
.end
