* F:\GitHub\Electronics_Exercises\AcLine_PhaseDetector_3Phase_OpticallyIsolated\Simulate\v2.0.asc
* Generated by LTspice 24.1.10 for Windows.
R1 VCC N003 22
V4 VCC 0 3.3
R5 N005 0 {33k+22k} pwr=2
C4 N019 0 22µ
Q1 OUT N019 0 0 NPN
R9 0 N019 33k
D§LED1 N014 OUT LED
R7 VCC OUT 4.7k
R17 VCC N014 1k
A1 N007 N004 L1 L1 L1 L1 0 L1 VARISTOR
V5 N004 N007 470
A3 N020 N017 L3 L3 L3 L3 0 L3 VARISTOR
V7 N017 N020 470
A2 N013 N010 L2 L2 L2 L2 0 L2 VARISTOR
V6 N010 N013 470
X§U1 N002 N005 N003 N006 LTV814S ;§pnba A)K)C)E
R2 N011 0 {33k+22k} pwr=2
X§U2 N009 N011 N006 N012 LTV814S ;§pnba A)K)C)E
R3 N018 0 {33k+22k} pwr=2
X§U3 N016 N018 N012 N019 LTV814S ;§pnba A)K)C)E
V1 L1 0 SINE(0 310 50 20m 0 0 3)
V2 L2 0 SINE(0 310 50 0 0 120)
V3 L3 0 SINE(0 310 50 0 0 240)
R4 L1 N002 {33k+22k} pwr=2
R6 L2 N009 {33k+22k} pwr=2
R8 L3 N016 {33k+22k} pwr=2
.model D D
.lib C:\Users\Home\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Home\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 200m
* MOV\n470
* MOV\n470
* MOV\n470
* 100mA
* 100mA
* 100mA
.model LED D(IS=2e-19 N=2 RS=5 BV=30 IBV=1e-3)
* GitHub.com/AliRezaJoodi
.lib MyLib/Opto/LTV814.lib
.backanno
.end
