* F:\GitHub\Electronics_Exercises\AcLine_ThyristorTrigger_SCR_MOC30xx\Simulate\v1.0.asc
* Generated by LTspice 24.1.10 for Windows.
R§LOAD N009 0 500
R2 N006 N007 360
R3 VCC N002 220
V2 TRIG 0 PULSE(0 3.3 4m 1n 1n 200u {1/(2*F)})
R4 L N004 470 pwr=2
C1 N004 N009 47n V=400
Q1 N005 N008 0 0 BC337-40
V3 VCC 0 3.3
R5 N008 TRIG 1.5K
D1 N001 N005 LED
R6 VCC N001 220
X§U2 N002 N005 N003 N006 MOC3021 ;§pnba led+)led-)mt2)mt1
C2 VCC 0 22µ
C3 VCC 0 100n
V1 L 0 SINE(0 325 {F})
D2 N004 N003 1N4007
X§U1 L N007 N009 S4020L ;§pnba A)G)K
.model D D
.lib C:\Users\Home\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Home\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran {2/F} startup
* 400V\nXc=67.8K
.model LED D(IS=2e-19 N=2 RS=5 BV=30 IBV=1e-3)
.param F=50Hz
* 220VAC
.model 1N4007 D(Is=90p Rs=40m Cjo=30p N=1.4 TT=5u Iave=1 Vpk=1000 type=silicon)
.lib MyLib/Opto/MOC3021.lib
.lib MyLib/Thyristor_SCR/_SCR_Littelfuse.lib
.backanno
.end
