* F:\GitHub\Electronics_Exercises\PSU_DCDC_BuckBoost_NonIso_INV_NonSync_LTC3863\Simulate\v1.0.asc
* Generated by LTspice 24.1.10 for Windows.
C1 N004 N007 27n
V1 IN 0 12
C2 IN N002 470n V=16
R1 IN Sense 16m
D1 OUT_N N001 B540C
L1 N001 0 10µ Rser=20m
R3 OUT_N N006 511K
R4 N006 FB_0V8 80.6K
Rload OUT_N 0 {Vout_N*Vout_N/Pout_N}
X§U1 PLL N008 0 N005 FB_0V8 N004 N006 N003 N002 Sense IN Gate 0 LTC3863 ;§pnba PLLIn/Mode)Freq)SGND)SS)Vfb)Ith)Vfbn)Run)Cap)Sense)Vin)Gate)PGND
R5 N008 0 61.9K
C5 N006 FB_0V8 68p
C3 0 OUT_N 330µ
C4 0 OUT_N 100n
C6 0 IN 22µ
C7 0 IN 100n
C8 IN 0 100n
C9 IN 0 22µ
R2 N007 0 14.7K
C11 N005 0 100p
R7 IN N003 22k
R9 N003 0 10k
M1 N001 Gate Sense Sense FDS6675
.model D D
.lib C:\Users\Home\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Home\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1.5m startup
* >1.26V
.param Vout_N=5 Pout_N=15W
* 220u
* GitHub.com/AliRezaJoodi
.lib LTC3863.sub
.backanno
.end
