* F:\GitHub\Electronics_Exercises\PSU_DCDC_Buck_NonIso_Sync_Collection\LTC3854.asc
* Generated by LTspice 24.1.10 for Windows.
M§Q1 IN N005 N007 N007 RJK0305DPB
L1 N007 OUT 6µ Rser=5.8m
C1 OUT 0 660µ Rser=4.5m
R1 OUT N006 42.2K
R2 N006 0 8.06K
C2 N001 0 4.7µ
C3 N002 0 .002µ
V1 IN 0 12
D1 N001 N003 CMDSH2-3
M§Q2 N007 N008 0 0 RJK0301DPB
R3 N007 N009 10.2K
C4 N009 OUT .1µ
C5 N004 0 2200p Rser=15K Cpar=100p
X§U1 N006 N004 N002 N003 N005 N007 0 N008 N001 IN OUT N009 LTC3854 ;§pnba FB)Ith)Run/SS)Boost)TG)SW)GND)BG)IntVcc)Vin)Sense-)Sense+
C6 N003 N007 .1µ
Rload OUT 0 1
.model D D
.lib C:\Users\Home\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Home\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 3.5m startup
.lib LTC3854.sub
.backanno
.end
