* F:\GitHub\Electronics_Exercises\PSU_DCDC_Flyback_NonIso_Async_Collection\Simulate_Pattern1\v1.0.asc
* Generated by LTspice 24.1.10 for Windows.
Rsense N005 0 10m
V1 IN 0 12
L1 IN SW {Lp} Rser=0.010
C3 N002 IN 2.2n Rser=1m
R1 N002 IN 100 pwr=2
M1 SW N004 N005 N005 BSC100N06LS3
D1 SW N002 MBRS360
C2 IN 0 100n
D2 N005 SW MBRS360
C1 IN 0 22µ
L2 0 N001 {Ls} Rser=0.011
D3 N001 OUT MBRS360
C4 OUT 0 680µ
C5 OUT 0 100n
R2 OUT N003 470
D§LED1 N003 0 LED
R§LOAD OUT 0 3.5
R3 N005 SENSE_P 10
R9 0 SENSE_N 10
C6 SENSE_P SENSE_N 56p
V2 TG 0 PULSE(0 12 0 1n 1n {D/Fsw} {1/Fsw})
R4 N004 TG 10
.model D D
.lib C:\Users\Home\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Home\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 2m 1.988m
K1 L1 L2 1
.model LED D(IS=2e-19 N=2 RS=5 BV=30 IBV=1e-3)
* GitHub.com/AliRezaJoodi
* 2W
* 220V
.param Fsw=200KHz D=0.45
* 15W
.param Np=4 Ns=3 Lp=4.5uH
.param Ls= {(Ns*Ns*Lp)/(Np*Np)}
.backanno
.end
