* F:\GitHub\Electronics_Exercises\PowerSupply_DcToDcConverter_Isolated_Forward\Simulate_ResetWinding\v1.0.asc
* Generated by LTspice 24.1.10 for Windows.
V1 N005 0 PULSE(0 12 0 {0.01/Fs} {0.01/Fs} {D/Fs} {1/Fs})
R1 N009 N010 10
L1 VDD C 1m
V2 VDD 0 12
C2 VDD 0 100n
C3 VDD 0 470µ
L2 N001 0 1m
C5 OUT 0 470µ
C6 OUT 0 100n
R§Load OUT 0 2
L4 N002 OUT 4µ
M1 C N010 0 0 BSC100N06LS3
Q1 VDD N004 N009 0 BC337-40
Q2 0 N004 N009 0 BC327-40
R5 N005 N006 10K
L3 0 N003 10m
D1 N001 N002 MBRS360
D2 0 N002 MBRS360
D4 N003 VDD MBRS360
D5 0 C MBRS360
Q3 N006 N014 0 0 BC337-40
R3 N014 0 10K
D3 N013 OUT UMZ5_1N
R4 N011 VDD 470
X§U1 N012 0 N011 N014 PC817 Igain=1m ;§pnba A)K)C)E
R6 N013 N012 1k
R7 N004 N008 100
X§U2 N007 N008 VDD 0 CD40106B vdd=12 speed=2 tripdt=100n ;§pnba in)out)VDD)GND
X§U3 N006 N007 VDD 0 CD40106B vdd=5 speed=2 tripdt=100n ;§pnba in)out)VDD)GND
D6 N006 N005 1N4148
.model D D
.lib C:\Users\Home\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Home\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Home\AppData\Local\LTspice\lib\cmp\standard.mos
.param Fs=150KHz D=0.5
.tran {300/Fs}
K1 L1 L2 L3 1
* Reset Winding
* GitHub.com/AliRezaJoodi
* 5V1
.lib MyLib/Digital/_CD4xxx.lib
.lib PC817.sub
.backanno
.end
