* Diode,  1N4004
.subckt 1N4004 A K
D1 A N1 D_1N4004
Rs N1 K 0.01
Cj A K 10p
.ends 1N4004

.model D_1N4004 D(IS=5.31656e-08 RS=0.0392384 N=2 EG=0.6 XTI=0.05 BV=400 IBV=5e-08 CJO=1e-11 VJ=0.7 M=0.5 FC=0.5 TT=1e-09 KF=0 AF=1)
