* Diode,  1N4007
.subckt 1N4007 A K
D1 A N1 D_1N4007
Rpkg N1 K 0.02
Cpar A K 10p
.ends 1N4007

.model D_1N4007 D(Is=90p Rs=40m Cjo=30p N=1.4 TT=5u Iave=1 Vpk=1000 type=silicon)