* Zener Diode, 180V, 1W, 5%

.subckt DFLZ180TP A K
D1 A N1 D_DFLZ180TP
Rpkg N1 K 0.1
Cpar A K 5p
.ends DFLZ180TP

.model D_DFLZ180TP D(IS=1e-12 N=1 Rs=400 Cjo=1e-12 M=0.5 Vj=0.7 Eg=1.1 Bv=180 Ibv=1e-6 Nbv=12)
