* Zener Diode, 180V, 1W, 5%

.subckt ZGL41_180A_E3 A K
D1 A N1 D_ZGL41_180A_E3
Rpkg N1 K 0.15
Cpar A K 5p
.ends ZGL41_180A_E3

.model D_ZGL41_180A_E3 D(IS=1e-12 N=1 Rs=900 Cjo=1e-12 M=0.5 Vj=0.7 Eg=1.1 Bv=180 Ibv=1e-6 Nbv=12)
