* Zener Diode 2.2V, 0.5W

*     	Terminals	A   	K
.subckt	Zener_2V2 	1 	2
D1 1 N1 D_F
DZ N2 1 D_R
VZ 2 N2 2.2
Rpkg N1 2 0.05
Cpar 1 2 5p
.ends Zener_2V2

.model D_F D(IS=50p RS=20 N=1.1 CJO=400p VJ=0.75 M=0.33 TT=50n)
.model D_R D(IS=10f RS=80 N=3.0)

